US05998439
Combine 1-(t-butoxycarbonyl)-4-(1-(5-(t-butyldimethylsilyloxy)methylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine (7 mmol) and methanol (40 mL). Add ammonium fluoride (42 mmol). Heat to reflux. After 20 hours, concentrate in vacuo to give a residue. Combine the residue with water and dichloromethane. Separate the layers and extract the aqueous layer twice with dichloromethane. Combine the organic layers and dry over Na2SO4, filter, and concentrate in vacuo to give 1-(t-butoxycarbonyl)-4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine.

reactant | 1-(t-butoxycarbonyl)-4-(1-(5-(t-butyldimethylsilyloxy)methylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine | 7 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CC=1OC(=CC1)CO[Si](C)(C)C(C)(C)C)C=CC=C2 | C30H43N3O5Si
reactant | methanol | 40 mL | CO | CH4O
reactant | ammonium fluoride | 42 mmol | [F-].[NH4+]
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(t-butoxycarbonyl)-4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CC=1OC(=CC1)CO)C=CC=C2 | C24H29N3O5
